US04696943
This example illustrates a varient of the process of Example 3, in which the intermediate 4-chlorobutanamide obtained in situ is not isolated. 84 g of anhydrous sodium sulfate are added to a suspension of 69.25 g (0.5 mole) of (S)-2-amino-butanamide hydrochloride in 600 ml of dichloromethane at ambient temperature. The mixture is cooled to 0° C. and 115 g of ground potassium hydroxide are added, followed by 8.1 g (0.025 mole) of tetrabutylammonium bromide dissolved in 100 ml of dichloromethane. A solution of 77.5 g of 4-chlorobutyryl chloride in 100 ml of dichloromethane is added dropwise at 0° C., with vigorous stirring. After 5 hours' reaction, a further 29 g of ground potassium hydroxide are added. Two hours later, the reaction mixture is filtered over Hyflo-cel and the filtrate evaporated under reduced pressure. The residue (93.5 g) is dispersed in 130 ml of hot toluene for 45 minutes. The resultant mixture is filtered and the filtrate evaporated under reduced pressure. The residue (71.3 g) is dissolved hot in 380 ml of ethyl acetate to which 23 g of 0.4 nm molecular sieve in powder form are added. This mixture is heated to reflux temperature and filtered hot. After cooling the filtrate, the desired product crystallizes to give 63 g of (S)-alpha-ethyl-2-oxo-1-pyrrolidineacetamide.

reactant | sodium sulfate | 84 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | (S)-2-amino-butanamide hydrochloride | 0.5 mole, 69.25 g | Cl.N[C@H](C(=O)N)CC
reactant | potassium hydroxide | [OH-].[K+]
reactant | 4-chlorobutyryl chloride | 77.5 g | ClCCCC(=O)Cl | C4H6Cl2O
solvent | dichloromethane | 600 ml | ClCCl | CH2Cl2
catalyst | tetrabutylammonium bromide | 0.025 mole, 8.1 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | (S)-alpha-ethyl-2-oxo-1-pyrrolidineacetamide | 63 g, Yield: 74.1% | C(C)[C@@H](C(=O)N)N1C(CCC1)=O | C8H14N2O2
